US04386100
Ethanolic potassium hydroxide solution (1 M; 5.2 ml) was added to a solution of 1'-(4-bromo-2-fluorobenzyl)-spiro-[imidazolidine-4,3'-indoline]-2,2',5-trione (2.0 g.) in dimethyl sulphoxide (10 ml.). The solution was stirred for 5 minutes and then chloromethyl pivalate (0.75 g.) was slowly added. After the addition was completed, the reaction mixture was further stirred for 16 hours; and then poured into water (100 ml.). The aqueous mixture was carefully acidified (concentrated hydrochloric acid). The precipitate which formed was washed with water, air dried and recrystallised twice from 2-propanol to give 1'-(4-bromo-2-fluorobenzyl)-1-(pivaloyloxymethyl)-spiro[imidazolidine-4,3'-indoline]-2,2',5-trione, as a white solid (0.75 g.), m.p. 220°-222° C.

reactant | potassium hydroxide | 1 M, 5.2 ml | [OH-].[K+]
reactant | 1'-(4-bromo-2-fluorobenzyl)-spiro-[imidazolidine-4,3'-indoline]-2,2',5-trione | 2.0 g | BrC1=CC(=C(CN2C(C3(C4=CC=CC=C24)NC(NC3=O)=O)=O)C=C1)F | C17H11BrFN3O3
reactant | chloromethyl pivalate | 0.75 g | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulphoxide | 10 ml | CS(=O)C | C2H6OS
solvent | water | 100 ml | O | H2O
product | 1'-(4-bromo-2-fluorobenzyl)-1-(pivaloyloxymethyl)-spiro[imidazolidine-4,3'-indoline]-2,2',5-trione | BrC1=CC(=C(CN2C(C3(C4=CC=CC=C24)NC(N(C3=O)COC(C(C)(C)C)=O)=O)=O)C=C1)F | C23H21BrFN3O5
